US08748374B2
6,7-dichloro-3-(thiophen-2-yl)quinoxalin-2(1H)-one
A mixture of 4,5-dichlorobenzene-1,2-diamine (1.0 g, 5.65 mmol), ethyl 2-oxo-2-(thiophen-2-yl)acetate (1.056 g, 5.73 mmol) and ethanol (8 ml) was stirred at 70° C. for 11 h, cooled to room temperature, filtered and washed with cold ethanol. The collected pale yellow solid was dried further (1.07 g) and used directly in next step.

reactant | 4,5-dichlorobenzene-1,2-diamine | 5.65 mmol, 1.0 g | ClC=1C=C(C(=CC1Cl)N)N | C6H6Cl2N2
reactant | ethyl 2-oxo-2-(thiophen-2-yl)acetate | 5.73 mmol, 1.056 g | O=C(C(=O)OCC)C=1SC=CC1 | C8H8O3S
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 6,7-dichloro-3-(thiophen-2-yl)quinoxalin-2(1H)-one | ClC=1C=C2N=C(C(NC2=CC1Cl)=O)C=1SC=CC1 | C12H6Cl2N2OS
